US08877780B2
TEA (0.28 g, 2.8 mmol) was added to a mixture of 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate (0.5 g, 1.4 mmol) and 4-chloro-3-(trifluoromethyl)phenyl isocyanate (0.31 g, 1.4 mmol) in DMF (30 mL) at 0° C. The mixture stirred at 0° C. for 3 h, and then 4% aqueous HCl (30 mL) was added. The solid precipitate was filtered and dried in vacuo providing 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea as a white solid, (0.57 g, 86% yield); mp 261-263° C.; HPLC, Waters Symmetry C-18, 3.9×150 mm, 5 μm, 1 ml/min, 240 nm, 40/60 CH3CN/0.1% H3PO4, 8.57 (98.52%); 1H NMR (DMSO-d6) δ 1.98-2.02 (m, 1H), 2.13-2.46 (m, 1H), 2.58-2.63 (m, 1H), 2.86-2.98 (m, 1H), 4.28-4.48 (m, 4H), 5.11 (dd, 1H, J=13.2 Hz, J=5.1 Hz), 6.98 (t, 1H, J=6.0 Hz), 7.45 (d, 1H, J=8.1 Hz), 7.54 (d, 2H, J=11.7 Hz), 7.61 (dd, 1H, J=8.7 Hz, J=2.1 Hz), 7.70 (d, 1H, J=7.8 Hz), 8.09 (d, 1H, J=2.4 Hz), 9.18 (s, 1H), 10.99 (s, 1H); 13C NMR (DMSO-d6) δ 22.5, 31.2, 42.8, 47.1, 51.6, 116.2 (q, J=5.6 Hz), 121.5, 121.9, 122.4, 122.8 (q, J=271 Hz), 122.9, 126.6 (q, J=30 Hz), 126.9, 130.3, 131.8, 140.0, 142.4, 144.5, 154.9, 167.9, 171.0, 172.8; LCMS: MH=495, 497; Anal. Calcd for C22H18ClF3N4O4+0.1H2O: C, 53.20; H, 3.69; N, 11.28. Found: C, 52.83; H, 3.47; N, 11.15.

reactant | 3-(5-aminomethyl-1-oxo-1,3-dihydro-isoindol-2-yl)-piperidine-2,6-dione methanesulfonate | 1.4 mmol, 0.5 g | CS(=O)(=O)O.NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O
reactant | 4-chloro-3-(trifluoromethyl)phenyl isocyanate | 1.4 mmol, 0.31 g | ClC1=C(C=C(C=C1)N=C=O)C(F)(F)F | C8H3ClF3NO
reactant | HCl | 30 mL | Cl | ClH
solvent | DMF | 30 mL | CN(C)C=O | C3H7NO
product | 1-(4-chloro-3-trifluoromethyl-phenyl)-3-[2-(2,6-dioxo-piperidin-3-yl)-1-oxo-2,3-dihydro-1H-isoindol-5-ylmethyl]-urea | 86% yield | ClC1=C(C=C(C=C1)NC(=O)NCC=1C=C2CN(C(C2=CC1)=O)C1C(NC(CC1)=O)=O)C(F)(F)F | C22H18ClF3N4O4
